US04243672
A solution of cis-/trans-2-(2-cyclopropylvinyl)-pyrrole (1.7 g., 0.073 mole) in ethanol (100 ml.) was hydrogenated over 10% palladium on charcoal at room temperature and 3.5 kg./cm2 (50 p.s.i.). The solution was filtered, the solvent evaporated and the residue distilled to give the required 2-(2-cyclopropylethyl)pyrrole as an oil (4.93 g.), B.P. 100°-103°./13 mm.

reactant | trans-2-(2-cyclopropylvinyl)-pyrrole | 0.073 mole, 1.7 g | C1(CC1)/C=C/C=1NC=CC1 | C9H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(2-cyclopropylethyl)pyrrole | C1(CC1)CCC=1NC=CC1 | C9H13N
